US04115396
A quantity (1.50 g., 0.0077 mole) of 2-amino-4-chloro-6-methylpyridine-1-oxide hydrochloride (prepared in Part B, above) with 6.0 ml. piperidine, and 10.0 ml. water was sealed in a reinforced bottle and heated in an oil bath at the temperature 155° C. for 3.5 hrs. The aqueous reaction mixture was then cooled to 25° C. and diluted with 50 ml. water. The diluted reaction mixture was then extracted with three 50.0 ml. portions of chloroform. The combined chloroform extracts were treated with charcoal, dried over anhydrous sodium sulfate, filtered, and the chloroform was removed by evaporation under reduced pressure. The solid residue thus obtained was crystallized from acetone to give 0.88 g. (55% yield) of 2-amino-6-methyl-4-piperidinopyridine-1-oxide as off-white needles having a melting point at 260° C. (with decomposition). The crystals sinter at about 250° C.

reactant | 2-amino-4-chloro-6-methylpyridine-1-oxide hydrochloride | 0.0077 mole, 1.50 g | Cl.NC1=[N+](C(=CC(=C1)Cl)C)[O-]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 2-amino-6-methyl-4-piperidinopyridine-1-oxide | 55% yield | NC1=[N+](C(=CC(=C1)N1CCCCC1)C)[O-] | C11H17N3O
